US05344929
converting the compound formed in Step a to 3-acetyl-5-chloro-2-thiophenesulfonamide by first reacting the compound formed in Step a with chlorine to form 3-acetyl-5-chloro-2-thiophenesulfenyl chloride, followed by reaction with ammonia to form 3-acetyl-5-chloro-2-thiophenesulfenyl and oxidation to 3-acetyl-5-chloro-2-thiophenesulfonamide;

reactant | 3-acetyl-5-chloro-2-thiophenesulfonamide | C(C)(=O)C1=C(SC(=C1)Cl)S(=O)(=O)N | C6H6ClNO3S2
reactant | chlorine | ClCl | Cl2
product | 3-acetyl-5-chloro-2-thiophenesulfenyl chloride | C(C)(=O)C1=C(SC(=C1)Cl)SCl | C6H4Cl2OS2
